US09102624B2
1-[1-(4-Cyano-phenyl)-ethyl]-2-methyl-4-oxo-2′-trifluoromethyl-1,4-dihydro-[3,4′]bipyridinyl-5-carboxylic acid methylamide
To a solution of 5-bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid methylamide (preparation 9, 240 mg, 0.641 mmol), 2-(trifluoromethyl)pyridine-4-boronic acid (148 mg, 0.78 mmol), palladium (0) tetrakis(triphenylphosphine) (79 mg, 0.068 mmol) in acetonitrile (4 mL) is added 2 M aqueous K2CO3 solution (0.60 mL, 1.20 mmol). After stirring for 72 h at 75° C., the reaction mixture is diluted with methanol and purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.1% NH4OH, 60° C.). Yield: 48 mg (17% of theory); ESI mass spectrum: [M+H]+=441; Retention time HPLC: 0.78 min (Z011_S03).

reactant | 5-bromo-1-[1-(4-cyano-phenyl)-ethyl]-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid methylamide | 0.641 mmol, 240 mg | CNC(=O)C1=CN(C(=C(C1=O)Br)C)C(C)C1=CC=C(C=C1)C#N | C17H16BrN3O2
reactant | 2-(trifluoromethyl)pyridine-4-boronic acid | 0.78 mmol, 148 mg | FC(C1=NC=CC(=C1)B(O)O)(F)F | C6H5BF3NO2
reactant | K2CO3 | 1.20 mmol, 2 M, 0.60 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.068 mmol, 79 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1-[1-(4-Cyano-phenyl)-ethyl]-2-methyl-4-oxo-2′-trifluoromethyl-1,4-dihydro-[3,4′]bipyridinyl-5-carboxylic acid methylamide | CNC(=O)C=1C(C(=C(N(C1)C(C)C1=CC=C(C=C1)C#N)C)C1=CC(=NC=C1)C(F)(F)F)=O | C23H19F3N4O2
